US07691867B2
Tert-butyl (4-nitro-1H-pyrazol-1-yl)acetate (1.0 g, 4.40 mmol) and 10% palladium on carbon (0.100 g) in methanol (20 ml) were stirred under an atmosphere of hydrogen for 2 hours and then the mixture was filtered through Celite and the filtrate evaporated to give tert-butyl (4-amino-1H-pyrazol-1-yl)acetate

reactant | Tert-butyl (4-nitro-1H-pyrazol-1-yl)acetate | 4.40 mmol, 1.0 g | [N+](=O)([O-])C=1C=NN(C1)CC(=O)OC(C)(C)C | C9H13N3O4
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | tert-butyl (4-amino-1H-pyrazol-1-yl)acetate | 99% yield | NC=1C=NN(C1)CC(=O)OC(C)(C)C | C9H15N3O2
